US05736548
To a mixture of 3-hydroxybenzaldehyde (4.15 g, 33.98 mmol), KOH (4.93 g) and DMSO (50 ml) was added N-(2-chloroethyl) pyrrolidine hydrochloride (6.94 g). The reaction mixture was stirred at room temperature overnight, then was poured into water (750 ml) and ethyl acetate (350 ml) was added. The layers were separated, the aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with water (2×1000 ml), dried over MgSO4, filtered and stripped to afford 7.12 g of 3-[2-(1-pyrrolidinyl)ethoxy]benzaldehyde.

reactant | 3-hydroxybenzaldehyde | 33.98 mmol, 4.15 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | KOH | 4.93 g | [OH-].[K+]
reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
reactant | N-(2-chloroethyl) pyrrolidine hydrochloride | 6.94 g | Cl.ClCCN1CCCC1
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 750 ml | O | H2O
product | 3-[2-(1-pyrrolidinyl)ethoxy]benzaldehyde | 7.12 g | N1(CCCC1)CCOC=1C=C(C=O)C=CC1 | C13H17NO2
